US06297375B1
e) 6-Morpholin-4-yl-4-o-tolyl-pyridin-3-ylamine
A suspension of2.93 g (8.28 mmol)2,2-dimethyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-propionamide in 80 ml 3 N hydrochloric acid solution and 5 ml 1-propanol was heated to 90-95° C. overnight. The reaction mixture was cooled to room temperature, washed with three 20 ml portions diethyl ether and filtered over celite. The filtrate was diluted with 20 ml water and was adjusted to pH 7-8 by addition of 28% sodium hydroxide solution under ice cooling. The product was extracted with four 100 ml portions of dichloromethane. The combined organic layers were washed with 50 ml brine, dried (magnesium sulfate) and evaporated to give 2.31 g (quantitative) of the title compound as a white foam.

reactant | 2,2-dimethyl-N-(6-morpholin-4-yl-4-o-tolyl-pyridin-3-yl)-propionamide | 8.28 mmol, 93 g | CC(C(=O)NC=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCOCC1)(C)C | C21H27N3O2
solvent | hydrochloric acid | 3 N, 80 ml | Cl | ClH
solvent | 1-propanol | 5 ml | C(CC)O | C3H8O
product | 6-Morpholin-4-yl-4-o-tolyl-pyridin-3-ylamine | N1(CCOCC1)C1=CC(=C(C=N1)N)C1=C(C=CC=C1)C | C16H19N3O
